US05633276
(2,2-Diethoxy-ethyl)-(2,3-dihydro-benzofuran-4-yl)-amine
A mixture of 2,3-dihydro-benzofuran-4-ylamine (preparation. J. Hetereocyclic Chem., 18, 1333 (1980)) (4.34 g), potassium carbonate (8.87 g) and bromo acetaldehyde diethyl acetal (9.7 ml) in dry DMF (60 ml) was heated to 100° C. for 2 days under. The mixture was cooled and was partitioned between water and ethyl acetate. The dried extracts were evaporated and the residue chromatographed on silica gel (250 g). Elution with ethyl acetate:cyclohexane 1:4 gave the title compound as a pale yellow oil (4.95 g).

reactant | 2,3-dihydro-benzofuran-4-ylamine | 4.34 g | O1CCC2=C1C=CC=C2N | C8H9NO
reactant | potassium carbonate | 8.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromo acetaldehyde diethyl acetal | 9.7 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | (2,2-Diethoxy-ethyl)-(2,3-dihydro-benzofuran-4-yl)-amine | 4.95 g | C(C)OC(CNC1=CC=CC2=C1CCO2)OCC | C14H21NO3
